US04873237
2-(4-Ethylthio-3-methylpyrid-2-yl)-2,3-dihydrothiazolo[3,2-a]benzimidazole
1-[2-Hydroxy-2-(4-ethylthio-3-methylpyrid-2-yl)ethyl]-2-mercaptobenzimidazole (0.01 mole) is dissolved in polyphosphoric acid (10 g) and the mixture heated at 100° C. for 2 hours with stirring. The mixture is then neutralised with sodium hydroxide solution and the product extracted with chloroform. Purification by column chromatography on silica gives the title compound.

reactant | 1-[2-Hydroxy-2-(4-ethylthio-3-methylpyrid-2-yl)ethyl]-2-mercaptobenzimidazole | 0.01 mole | OC(CN1C(=NC2=C1C=CC=C2)S)C2=NC=CC(=C2C)SCC | C17H19N3OS2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(4-Ethylthio-3-methylpyrid-2-yl)-2,3-dihydrothiazolo[3,2-a]benzimidazole | C(C)SC1=C(C(=NC=C1)C1CN2C(=NC3=C2C=CC=C3)S1)C | C17H17N3S2
